US07094594B2
To 30 mL (45 mmol) of a solution of n-butyllithium in hexane (1.5 mol/L) was added a solution of diisopropylamine (5.01 g, 49.5 mmol)-tetrahydrofuran (5 mL) dropwise under stirring at 5° C., and the mixture was stirred under argon for 1 hour to prepare a lithium diisopropylamide solution. In a separate vessel, 1.02 g (10 mmol) of (S)-β-hydroxy-γ-butyrolactone and 2.32 g (20 mmol) of tert-butyl acetate were dissolved in 8.0 mL of tetrahydrofuran and the mixture was stirred under argon at 0 to 5° C. To this solution, the lithium diisopropylamide solution prepared above was added dropwise over 30 minutes, and the mixture was further stirred at 5 to 20° C. for 16 hours. In a separate vessel, 35 mL of 3N-hydrochloric acid and 30 ml of ethyl acetate were stirred to mix and the above reaction mixture was poured therein. After standing, the organic layer was taken, washed with saturated aqueous sodium chloride solution, and dehydrated over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (Kieselgel 60, product of Merck; hexane:ethyl acetate=2:1) to give 124 mg of (5S)-5,6-dihydroxy-3-oxohexanoic tert-butyl ester (yellow oil). Yield 6%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 49.5 mmol, 5.01 g | C(C)(C)NC(C)C | C6H15N
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-β-hydroxy-γ-butyrolactone | 10 mmol, 1.02 g | O[C@H]1CC(=O)OC1 | C4H6O3
reactant | tert-butyl acetate | 20 mmol, 2.32 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | 1.5 mol/L | CCCCCC | C6H14
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (5S)-5,6-dihydroxy-3-oxohexanoic tert-butyl ester | 124 mg, Yield 6% | C(C)(C)(C)OC(CC(C[C@@H](CO)O)=O)=O | C10H18O5
